US04055595
A solution of (±)-2-(2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionyl chloride (1.3 g.) in ether (10 ml.) is added to a mixture of ammonia (d, 0.90; 10 ml.) and water (100 ml.). The mixture is shaken, and the ether is evaporated. The solid is filtered off and crystallised from light petroleum (b.p. 100°-120° C.) to give (±)-2-(2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionamide (0.76 g.) m.p. 111°-112° C.

reactant | (±)-2-(2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionyl chloride | 1.3 g | C1=C(C=CC2=CC=CC=C12)COC(C(=O)Cl)(C(F)(F)F)C | C15H12ClF3O2
reactant | ammonia | 10 ml | N | H3N
reactant | water | 100 ml | O | H2O
solvent | ether | 10 ml | CCOCC | C4H10O
product | (±)-2-(2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionamide | 0.76 g | C1=C(C=CC2=CC=CC=C12)COC(C(=O)N)(C(F)(F)F)C | C15H14F3NO2
